US07875722B2
7-[(7S)-7-Amino-7-methylspiro[2.4]hept-5-yl]-1,4-dihydro-6-fluoro-1-[(1R,2S)-2-fluorocyclopropyl]-8-methoxy-4-oxo-3-quinolinecarboxylic acid dihydrate
An acetonitrile solution (24 mL) containing 6,7-difluoro-1,4-dihydro-1-[(1R,2S)-2-fluorocyclopropyl]-8-methoxy-4-oxo-3-quinolinecarboxylic acid (3 g), (7S)-7-methyl-5-azaspiro[2.4]heptan-7-amine dihydrochloride (3 g), triethylamine (1.34 mL), and boron trifluoride-tetrahydrofuran complex (2.68 g) was stirred at room temperature for 30 minutes. Boron trifluoride-tetrahydrofuran complex (0.27 g) was further added to the solution, followed by stirring for one hour at the same temperature. Triethylamine (5.37 mL) was further added to the reaction mixture, followed by stirring at room temperature for 5 hours. The solvent was evaporated under reduced pressure, and methanol (30 mL) was added to the residue. The mixture was refluxed for 2 hours, and the solvent was evaporated. 90% Hydrated methanol was added to the residue, and the pH of the product was adjusted to 8 by use of 5N aqueous sodium hydroxide. The thus-obtained mixture was stirred at 60° C. for 40 minutes, and the pH of the product was adjusted to 7 by use of 5N aqueous sodium hydroxide solution, followed by stirring at 5° C. for 16 hours. The thus-produced crystals were recovered through filtration and dried, to thereby yield 4.23 g of the title compound (yield: 93%). Spectral data of this compound coincided with those obtained in Example 1.

reactant | acetonitrile | 24 mL | C(C)#N | C2H3N
reactant | 6,7-difluoro-1,4-dihydro-1-[(1R,2S)-2-fluorocyclopropyl]-8-methoxy-4-oxo-3-quinolinecarboxylic acid | 3 g | FC=1C=C2C(C(=CN(C2=C(C1F)OC)[C@H]1[C@H](C1)F)C(=O)O)=O | C14H10F3NO4
reactant | (7S)-7-methyl-5-azaspiro[2.4]heptan-7-amine dihydrochloride | 3 g | Cl.Cl.C[C@]1(CNCC12CC2)N
solvent | Triethylamine | 5.37 mL | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 1.34 mL | C(C)N(CC)CC | C6H15N
product | 7-[(7S)-7-Amino-7-methylspiro[2.4]hept-5-yl]-1,4-dihydro-6-fluoro-1-[(1R,2S)-2-fluorocyclopropyl]-8-methoxy-4-oxo-3-quinolinecarboxylic acid dihydrate | yield 4.23 g, yield: 93% | O.O.N[C@]1(CC(CC12CC2)C2=C(C=C1C(C(=CN(C1=C2OC)[C@H]2[C@H](C2)F)C(=O)O)=O)F)C | InChI=1S/C22H24F2N2O4.2H2O/c1-21(25)7-10(8-22(21)3-4-22)16-14(24)5-11-17(19(16)30-2)26(15-6-13(15)23)9-12(18(11)27)20(28)29;;/h5,9-10,13,15H,3-4,6-8,25H2,1-2H3,(H,28,29);2*1H2/t10?,13-,15+,21-;;/m0../s1
